datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][S+:10](C([H])C(CC)[O]1)[C:20]1([O:21][H])[O]C.[Cl-]>>[Cl-].[H][S:10]C([H])C(CC)[O][C:20]([O]C)=[O+:21][H] 21=20;20,10=10"
"[K][O:21]C.[C:20](=[O:10])(OC1=CC=CC=C1)OC1=CC=CC=C1>>[K][O+:21]([C:20]([O-:10])(OC1=CC=CC=C1)OC1=CC=CC=C1)C 21=20;20,10=10"
"[H][O:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([NH]C)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([NH]C)[NH]C7=CC=CC=C7 10=20;20,21=21"
"[H][NH:10]C(C)C([H])[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(C)C([H])[O]1)[C:20]1([NH:21]CC)[NH]C7=CC=CC=C7 10=20;20,21=21"
"C[O+:10]([H])[C:20]([NH:21]C)([NH]C8=CC=CC=C8)[NH]CC.[Cl-]>>[Cl-].C[O:10][H].C[NH+:21]=[C:20]([NH]C8=CC=CC=C8)[NH]CC 21=20;20,10=10"
"[H]C1C(O[C:20](N1[H])([O-:10])[O:21]C1=CC=CC=C1)C1=CC=CC=C1>>[H]C1C(O[C:20](=[O:10])N1[H])C1=CC=CC=C1.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"CN([C:20](=[O:10])OC(C(C([O-:21])[H])C)C1=CC=CC=C1)CC>>CN([C:20]1(OC(C(C([O:21]1)[H])C)C1=CC=CC=C1)[O-:10])CC 21=20;20,10=10"
"[H][O+:21]=[C:20]2[S][CH]([H])[CH]([H])C(C8=CC=CC=C8)[S]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([O:21][H])[S][CH]([H])C([H])[CH](C8=CC=CC=C8)[S]1 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[O]C([H])C(CC)[O]1.[Cl-]>>[Cl-].[Si](C)(C)(C)[O+:21]=[C:20]2[O]C([H])C(CC)[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"CC[S+:10]([H])[C:20]1([O:21]C)[S][CH](C7=CC=CC=C7)C([H])[CH](CC)[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S][CH](C7=CC=CC=C7)[CH]([H])C(CC)[S]2.CC[S:10][H] 21=20;20,10=10"
"[O-:21][C:20]1(OCC)[O:10]C(CCC)C([H])=C1C>>[O-:10]C(CCC)/C([H])=C([C:20](OCC)=[O:21])/C 21=20;20,10=10"
"[H][NH:10]C(C9=CC=CC=C9)C([H])[O][C:20]([O][H])=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C([H])[O]1)[C:20]1([NH:21]CC)[O][H] 10=20;20,21=21"
"[H]C1C(C(O[C:20](=[O:10])N1CCCCCC)C1=CC=CC=C1)CCCCCC.[O-:21]CC>>[H]C1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]CC)C1=CC=CC=C1)CCCCCC 21=20;20,10=10"
"CC[O+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([O]C8=CC=CC=C8)[O][H].[Cl-]>>[Cl-].CC[O:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([O]C8=CC=CC=C8)[O][H] 21=20;20,10=10"
"CC[O:10][H].[H][NH+:21]=[C:20]([O]C)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]([NH:21][H])([O]C)[NH]C7=CC=CC=C7 10=20;20,21=21"
"[H][O+:10](C(C9=CC=CC=C9)C([H])[O]1)[C:20]1([O:21][H])[O]C.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C([H])[O][C:20]([O]C)=[O+:21][H] 21=20;20,10=10"
"C[NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C(C)[NH]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]C)[O][CH]([H])C([H])[CH](C)[NH]1 10=20;20,21=21"
"CCN([C:20](=[O:10])OC(C([O-:21])C)C)[H]>>CCN([C:20]1(OC(C([O:21]1)C)C)[O-:10])[H] 21=20;20,10=10"
"[H][S:10]C(C)C(CC)[O][C:20]([O]C)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(C)C(CC)[O]1)[C:20]1([O:21]C)[O]C 10=20;20,21=21"
"[H][O+:21]=[C:20]2[O][CH](CC)[CH]([H])C(C)[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([O:21][H])[O][CH](CC)C([H])[CH](C)[O]1 10=20;20,21=21"
"C[O:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([S][H])[O]C.[Cl-]>>[Cl-].C[O+:10]([H])[C:20]([O:21][Si](C)(C)(C))([S][H])[O]C 10=20;20,21=21"
"CCCCCCC1C(O[C:20](N1C)([O-:10])[O:21]C1=CC=CC=C1)[H]>>CCCCCCC1C(O[C:20](=[O:10])N1C)[H].[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"[H][O:10]C([H])C([H])C(C8=CC=CC=C8)[NH][C:20]([NH]CC)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C([H])C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]CC)[NH]CC 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]CC)[O][CH](CC)C(C)[CH]([H])[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O][CH](CC)[CH](C)C([H])[NH]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"C[O+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C(C)[S]2.C[S:10][H].[Cl-]>>[Cl-].C[S+:10]([H])[C:20]1([O:21]C)[O][CH](C7=CC=CC=C7)C(C)[CH](C)[S]1 10=20;20,21=21"
"[O-:21][C:20]1(C)C([H])C([H])=C(C)C(C)[O:10]1>>[O-:10]C(C)/C(C)=C([H])\C([H])[C:20](C)=[O:21] 21=20;20,10=10"
"[H][S:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([S][H])[O]CC.[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]([O:21][Si](C)(C)(C))([S][H])[O]CC 10=20;20,21=21"
"CN([C:20](=[O:10])OC(C([O-:21])[H])CCCCCC)[H]>>CN([C:20]1(OC(C([O:21]1)[H])CCCCCC)[O-:10])[H] 21=20;20,10=10"
"[H][S:10]C(C9=CC=CC=C9)C(C8=CC=CC=C8)[O][C:20]([S]C)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(C9=CC=CC=C9)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21][H])[S]C 10=20;20,21=21"
"C[S+:10]([H])[C:20]1([O:21][H])[S][CH](CC)C([H])[CH](C)[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S][CH](CC)[CH]([H])C(C)[S]2.C[S:10][H] 21=20;20,10=10"
"C1=CC=CC=C1C1C(O[C:20](=[O:10])N1C1=CC=CC=C1)CCCCCC.[O-:21]C1=CC=CC=C1>>C1=CC=CC=C1C1C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]C1=CC=CC=C1)CCCCCC 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C([H])C(CC)[O]1)[C:20]1([NH:21]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C([H])C(CC)[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]C 21=20;20,10=10"
"[H][O+:10](C([H])C([H])C(CC)[O]1)[C:20]1([O:21]C)[O][H].[Cl-]>>[Cl-].[H][O:10]C([H])C([H])C(CC)[O][C:20]([O][H])=[O+:21]C 21=20;20,10=10"
"CC1C(C(O[C:20](N1CC)([O-:10])[O:21]C1=CC=CC=C1)CCCCCC)CC>>CC1C(C(O[C:20](=[O:10])N1CC)CCCCCC)CC.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"[H][S:10]C(CC)C([H])C(C8=CC=CC=C8)[O][C:20]([S]C)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(CC)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([O:21]C)[S]C 10=20;20,21=21"
